Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
iron
 
Attending: ___
 
___ Complaint:
cardiac arrest
 
Major Surgical or Invasive Procedure:
PICC line placement and removal 
second PICC line placed 
Intubation and sedation 

 
History of Present Illness:
Mr. ___ is a ___ y/o man with a PMH of metastatic 
colorectal adenocarcinoma (to duodenum and liver, s/p colectomy, 
L hepatic lobectomy, XRT to liver, and FOLFOX x4 cycles), R 
frontal lobe stroke (on enoxaparin), AFib/flutter s/p PPM, who 
presented after cardiac arrest.

He was recently admitted to ___ ___ with iron deficiency 
anemia and GI bleed and was found to have eroding mass ___ his 
duodenum, which was biopsy confirmed metastatic poorly 
differentiated carcinoma, morphologically similar to his 
metastatic colorectal adenocarcinoma. He was evaluated by 
surgery and radiation oncology and felt not to be a candidate 
for either, for which he was started on systemic chemotherapy 
with FOLFOX. He was switched from warfarin to enoxaparin for his 
stroke given his risk of bleeding. He completed his infusion of 
___ on ___. 

He then returned to ___ clinic on ___ for infusion of IV 
iron given his anemia to 8.0 g/dL. Approximately 5 minutes into 
the infusion of iron, he began to experience ___ abdominal pain 
and shortness of breath. He was given diphenhydramine, 
methylprednisolone, and morphine. He was planned for transfer to 
the ED for concern for perforation given his significant burden 
of disease, at which point he lost his pulse and ACLS was 
initiated and continued for 32 minutes. He received epinephrine 
x1 and electrical shocks x4 before ROSC was obtained. He was 
also given naloxone.

On arrival to the ED, the rhythms were consistent with 
ventricular fibrillation. There was no evidence of STEMI on 
post-arrest EKGs. He was not deemed to be a candidate for 
cardiac catheterization given his medical history significant 
for duodenal metastases from rectal cancer resulting ___ bleeding 
complications. He was loaded with 450 mg of amiodarone. Labs 
were notable for WBC 31.6, H/H 9.0/31.6, PLT 239, BUN/ Cr 
___, lactate 8.8, VBG 6.___, K+ 3.4. The etiology of his 
arrest was thought to be secondary to hypokalemia ___ the setting 
of profound acidosis. He was given sodium bicarbonate and 
initiated on norepinephrine. 

On arrival to the MICU, the patient was intubated and sedated. 

REVIEW OF SYSTEMS:  
- unable to obtain, intubated

 
Past Medical History:
PAST MEDICAL HISTORY:  
- DVT (provoked, ___
- R frontal stroke (___)
- atrial fibrillation/flutter, s/p cardioversion and 
___
- bipolar disorder
- hypertension
- erectile dysfunction
- chronic back problems and sciatica s/p laminectomy ___
- s/p left hip replacement ___
- s/p closure ASD ___ 

PAST ONCOLOGIC HISTORY
Diagnosed with poorly differentiated colorectal adenocarcinoma 
pT3N0Mx ___ metastatized to liver later that year s/p FOLFOX 
x3 cycles. Underwent L hepatic lobectomy ___ and CyberKnife 
to new liver metastasis ___. Discovered to have eroding 
metastatic mass into duodenum leading to iron deficiency anemia, 
for which he was given FOLFOX ___. Diagnosed with grade 1 
pancreatic neuroendocrine tumor ___ ___. History of papillary 
thyroid cancer s/p total thyroidectomy ___ and I-131. History 
of right adrenal adenoma.

 
Social History:
___
Family History:
Per OMR:
Mother - DVT
___ any family history of strokes.
Children healthy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: T 35.5F BP 119/77 P 65 RR 28 O2 100% on CMV
General: intubated and sedation. 
HEENT: Pupils pinpoint. Anicteric sclerae.
Neck: No JVD.
CV: RRR, no MRGs; normal S1/S2.
Pulm: CTA anteriorly b/l. No wheezes, rhonchi, or rales.
Abd: Colostomy bag with protruding bowel, brown stool. Sluggish 
bowel sounds. No tenderness.
GU: Foley ___ place, draining clear urine. 
Ext: Warm and well-perfused.
Neuro: Sedated.

DISCHARGE PHYSICAL EXAM
=======================
Expired, see death note ___ ___
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:40PM BLOOD WBC-31.6* RBC-3.21* Hgb-9.0* Hct-31.6* 
MCV-98 MCH-28.0 MCHC-28.5* RDW-18.0* RDWSD-65.3* Plt ___
___ 09:48PM BLOOD Neuts-94.3* Lymphs-2.8* Monos-1.5* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-13.03*# AbsLymp-0.38* 
AbsMono-0.21 AbsEos-0.00* AbsBaso-0.01
___ 05:40PM BLOOD ___ PTT-45.5* ___
___ 05:40PM BLOOD ___ 09:48PM BLOOD Glucose-143* UreaN-20 Creat-1.6* Na-139 
K-4.8 Cl-105 HCO3-20* AnGap-19
___ 09:48PM BLOOD ALT-43* AST-83* LD(LDH)-453* CK(CPK)-920* 
AlkPhos-86 TotBili-0.6
___ 09:48PM BLOOD CK-MB-21* MB Indx-2.3 cTropnT-0.56*
___ 03:24AM BLOOD CK-MB-32* cTropnT-0.62*
___ 09:48PM BLOOD Albumin-2.3* Calcium-8.2* Phos-3.5 Mg-2.2
___ 09:48AM BLOOD ___
___ 09:48PM BLOOD Hapto-46
___ 05:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:47PM BLOOD ___ pO2-30* pCO2-90* pH-6.90* 
calTCO2-19* Base XS--20
___ 05:47PM BLOOD Glucose-205* Lactate-8.8* Na-137 K-3.4 
Cl-105

INTERIM LABS
============
___ 04:53PM BLOOD Ret Aut-0.4 Abs Ret-0.01*
___ 06:30PM BLOOD proBNP-1499*
___ 06:00PM BLOOD TSH-14*
___ 04:30AM BLOOD T4-4.4*
___ 03:35PM BLOOD Free T4-0.9*

LAST SET OF LABS
==============
___ 05:20AM BLOOD WBC-6.1 RBC-2.37* Hgb-6.8* Hct-21.0* 
MCV-89 MCH-28.7 MCHC-32.4 RDW-19.7* RDWSD-60.4* Plt Ct-41*
___ 05:20AM BLOOD ___ PTT-39.8* ___
___ 05:20AM BLOOD Glucose-83 UreaN-55* Creat-6.0* Na-137 
K-3.2* Cl-103 HCO3-19* AnGap-18
___ 05:20AM BLOOD ALT-30 AST-81* LD(LDH)-534* AlkPhos-520* 
TotBili-8.2*
___ 05:20AM BLOOD Calcium-7.6* Phos-6.9* Mg-2.0
___ 06:14AM BLOOD Type-CENTRAL VE pO2-74* pCO2-38 pH-7.32* 
calTCO2-20* Base XS--5

MICROBIOLOGY
============
NO GROWTH/NEGATIVE UNLESS OTHERWISE SPECIFIED
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT

___ 5:35 pm BLOOD CULTURE      Source: Line-picc . 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ___ ALBICANS. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         Yeast Susceptibility:. 
         Fluconazole MIC OF  0.5 MCG/ML = SUSCEPTIBLE. 
         Results were read after 24 hours of incubation. 
         Sensitivity testing performed by Sensititre.  FINAL 
SENSITIVITIES.

___ Culture, Routine-FINALINPATIENT
___ CULTURE-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___. difficile DNA amplification 
assay-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT

___ 9:24 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___. difficile DNA amplification assay-FINAL 
{CANCELLED}
___. difficile DNA amplification 
assay-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ CULTURE-FINALINPATIENT
___. difficile DNA amplification assay-FINAL
___ Culture, Routine-FINALINPATIENT
___ CULTURE-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ CULTURE-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ SCREEN-FINALINPATIENT

___ 6:20 am SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD(S).    RARE GROWTH. 

___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ CULTURE-FINALINPATIENT

___ 12:01 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      YEAST.    RARE GROWTH. 

___ Culture, Routine-FINALINPATIENT
___ CULTURE-FINALINPATIENT
___ Culture, Routine-FINALINPATIENT
___ Culture, Routine-FINAL

IMAGING/STUDIES
===============
CT HEAD W/O CONTRAST (___):
IMPRESSION:    
1.  No intracranial hemorrhage or fracture. 
2.  Paranasal sinus disease. 

ECHO (___):
GENERAL COMMENTS: Suboptimal image quality - poor apical views. 
Suboptimal image quality as the patient was difficult to 
position. Suboptimal image quality - body habitus. Suboptimal 
image quality - ventilator.   
Conclusions   
The left atrium is mildly dilated. There is moderate symmetric 
left ventricular hypertrophy. The left ventricular cavity size 
is normal. There is moderate to severe global left ventricular 
hypokinesis (LVEF = 30 %). The right ventricular free wall 
thickness is normal. The right ventricular cavity is markedly 
dilated with severe global free wall hypokinesis. The aortic 
root is mildly dilated at the sinus level. The ascending aorta 
is mildly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Trace aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is borderline 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 
Compared with the prior study (images reviewed) of ___, 
LV and RV function both significantly worse.   

CTA CHEST AND CT ABDOME (___):
IMPRESSION: 
1. No pulmonary embolism.  Pulmonary arteries are well seen 
through the 
subsegmental level. 
2. There are 2 foci of pneumomediastinum anterior to the heart 
which are 
likely due to rib fractures. 
3. There are multiple rib fractures including bilateral second 
ribs, left 
third rib, bilateral fourth ribs, and bilateral fifth ribs 
without significant displacement.  ___ addition there is a 
possible nondisplaced fracture of the upper sternal body (5:68). 

4. ___ to moderate bibasilar consolidation which is likely due 
to both 
atelectasis and aspiration, there is a filling defect within the 
right 
mainstem bronchus which is likely due to aspirated 
secretions/mucus. 
5. There is no free air within the abdomen.  There is a large 
infiltrative 
mass within the right upper quadrant of the abdomen which 
appears to arise 
from the liver which has central air likely due to infiltrative 
involvement of the second portion the duodenum. 
6. The mass also appears to involve the right kidney, central 
SMV, and 
pancreatic head.  The colon near the hepatic flexure is also 
likely involved.  The tumor abuts and flattens the IVC however 
it does not appear to be definitely invaded. 
7. There is an end colostomy at the left mid abdomen with a para 
stomal 
hernia.  There is dilation of the ascending, transverse, and 
descending colon which is also fluid-filled.  This is likely an 
adynamic ileus as no abrupt transition point is noted and the 
colon just proximal to the end colostomy is decompressed. 
8. Stomach is markedly dilated and filled with oral contrast.  
This is likely due to gastric outlet obstruction from duodenum 
involvement of the mass.  Decompression of the stomach through 
the indwelling enteric tube should be considered. 
  
EEG (___):
IMPRESSION: This is an abnormal continuous video EEG due to the 
presence of a slow and disorganized background, consistent with 
a moderate encephalopathy. There are abundant generalized 
broad-based sharp waves, initially occurring ___ a quasi periodic 
fashion, but they become persistently periodic reaching up to 2 
Hz by the morning of ___. No clinical correlate is seen with 
these discharges. These findings are indicative of diffusely 
increased cortical irritability and an increased propensity for 
seizures. Of note, plentiful myogenic artifact is again seen 
throughout the majority of the recording obscuring the frontal 
temporal regions bilaterally. There are no electrographic 
seizures ___ this recording. 

MRI MRA BRAIN ___ 
1. Punctate acute infarct ___ the left cerebellum.
2. Persistent occlusion of the V3 and proximal V4 segments of 
the left
vertebral artery with reconstitution of the distal V4 segment.  
No evidence
for new arterial occlusion, flow-limiting stenosis, or aneurysm.
3. Paranasal sinus disease, as described above.
 
CT C-SPINE W/O CONTRAST  ___
1. No acute fracture or acute malalignment.
2. Moderate multilevel degenerative changes most notable at 
C5-C6 with
multilevel mild spinal canal narrowing.

CT T-SPINE W/O CONTRAST  ___
1. Study is degraded by motion and by hardware streak artifact.
2. Within limits of study, no definite evidence of thoracic 
spine fracture.
3. Multilevel thoracic spine degenerative changes, as described.
4. Left greater than right consolidations again noted.
5. Partially visualized known right adrenal adenoma and 
diffusely thickened
left adrenal gland.

CT L-SPINE W/O CONTRAST  ___
1. No evidence of fracture.
2. Multiple probable bone islands as described, grossly 
unchanged compared to
___ prior exam.
3. Extensive multilevel degenerative changes of the lumbar spine 
as described,
most pronounced at L3-4 and L4-5 where there is at least mild 
spinal canal
narrowing.  If clinically indicated, consider dedicated lumbar 
spine MRI
further evaluation.

LIVER OR GALLBLADDER US (SINGLE ___
1. Mild central intrahepatic biliary dilatation with dilated 
common hepatic
duct.
2. Ill-defined mass again seen centrally within the liver and ___ 
the midline. 
This mass is difficult to visualize with ultrasound.  No 
peripheral hepatic
lesions are visualized.
3. 8 cm solid round mass partially visualized ___ the left upper 
quadrant
adjacent to the spleen which does not appear to have been 
present on the prior
CT of ___.  This mass cannot be further 
characterized with
ultrasound.

CT ABD & PELVIS WITH ___
1. New large right iliacus muscle hematoma.
2. Large right-sided abdominal mass invading the liver, right 
kidney,
pancreas, stomach/duodenum and the hepatic flexure of the colon.
3. Probable gastric outlet obstruction as well as a fistulous 
communication
between the duodenum and the patient's mass.
4. New separate liver metastasis.
 
Brief Hospital Course:
___ y/o man with a PMH of metastatic colorectal adenocarcinoma 
(to duodenum and liver, s/p colectomy, L hepatic lobectomy, XRT 
to liver, and FOLFOX x4 cycles), R frontal lobe stroke 
(previously on enoxaparin), AFib/flutter s/p PPM, who presented 
after cardiac arrest during iron infusion, s/p cooling protocol. 
Warmed and extubated successfully with residual neurologic 
deficits though without ischemic brain injury on imaging; 
hospital course c/b ongoing chronic GI bleed with 
transfusion-dependent anemia, new cerebellar stroke, HCAP s/p 
ceftaz, epileptiform discharges started on Depakote, multiple 
electrolyte abnormalities related to parastomal hernia and heavy 
ostomy output, cholangitis thought secondary to expanding mass, 
CAUTI, concern for PICC-line infection, candidemia, acute liver 
failure with hypoglycemia/thrombocytopenia/coagulopathy, and 
worsening oliguric renal failure. Hospital course was further 
complicated by ongoing difficulties defining goals of care, 
ethics consult, legal department involved ___ process of 
appointing guardian. Ultimately, Mr. ___ expired ___ from 
complications of metastatic rectal cancer, autopsy requested by 
his wife.

# GOALS OF CARE
# METASTATIC COLORECTAL CANCER
Patient had metastatic disease with multiple comorbidities, 
cardiac arrest with resulting depressed EF, anoxic brain injury 
on presentation. Initially there was consideration of further 
chemo, however this was not possible because of his mental 
status (not able to consent). Decision to place ICD lead was 
deferred. Ethics consulted given difficulties ___ contacting the 
family and medical decision making. His wife agreed to not 
pursue further chemotherapy, surgery, DNR/DNI, no ICU transfers. 
There was no official HCP on file prior to this incident and 
therefore impossible to obtain placement ___ rehab without 
appointing a guardian, which initially seemed liked it was 
possible and within goals of care. Process caused significant 
turmoil for patient's wife and family. Conversations were 
ongoing with the family but there was a process underway for an 
independent guardian. Ultimately his wife was appointed 
guardian. The topic of hospice was brought up but patient's wife 
wanted rehab if possible and was hoping for a miracle, looking 
forward to him possibly going back to work, despite 
conversations ___ which it was said that he would almost surely 
die ___ days to weeks from his disease and increasingly 
complicated comorbidities. Palliative care services were offered 
___ the context that they could help with symptom management but 
wife declined, stating she did not want another group of doctors 
involved for "symptoms." ___ medical problems made him not 
safe for rehab. Inpatient hospice was discussed but ultimately 
he was too unstable for transfer. ___ his last weeks, he 
developed acute liver failure with profound hypoglycemia, 
thrombocytopenia and coagulopathy, cholangitis, and fungemia 
from advancing mass and there were no options for definitive 
treatment. He required constant life support with IVF at high 
rates to prevent fatal hypoglycemia, electrolyte abnormalities 
and maintain blood pressure, relying on boluses as he was not a 
candidate for pressors/ICU transfer, however this was not 
sustainable due to increasingly complicated balancing of his 
various fluid needs and due to significant harm observed with 
increasingly fluid overload state which caused significant 
dyspnea and eventually inability to compensate for metabolic 
acidosis through tachypnea (which he had been doing previously), 
accompanied by rapidly worsening mental status. Ultimately, it 
was agreed between the medical team and the family to not cause 
the patient further harm and to hold IVF. He passed away within 
hours. For a problem-based summary, see below.

# CARDIAC ARREST
# PARTIAL NEUROLOGIC RECOVERY WITH RESIDUAL NEUROLOGIC DEFICITS 
Patient had a VT/Vfib cardiac arrest ___ infusion clinic while 
receiving an IV iron infusion. He underwent ___ minutes of CPR 
and was eventually intubated, sedated, and admitted to the ICU 
for cooling protocol. Regarding the etiology of his arrest, 
Electrophysiology was consulted and interrogated his pacer, 
which showed VT/Vfib. Unclear precipitatant but may have been 
related to his IV iron infusion. Imaging showed multiple rib fx 
with ___ areas of pneumomediastinum and flail chest. He was 
warmed and eventually extubated after complicated ICU course, 
and had partial recovery of his mental status, with ability to 
move all extremities, walk, speak ___ fluid sentences, and with 
orientation to self and hospital. He remainder persistently 
confused and not fully oriented to situation, and did not return 
to his baseline. MRI brain was obtained which showed new R 
cerebellar stroke but no overt evidence of anoxic brain injury. 
Overall, his mental status improved significantly ___ the first 
week after cardiac arrest but he recovered past that point 
minimally, if at all. He remained disoriented with waxing and 
waning levels of alertness, unable to participate ___ his care, 
and ___ his final days of life, was no longer oriented to self or 
speaking ___ full sentences, and had declining alertness. 

# Acute hypoxemic respiratory failure:  
# Pneumonia 
# Flail Chest 
# Pneumomediastinum
Febrile ___ the ICU with sputum culture growing GNRs, bibasilar 
consolidations on CT, multiple rib fractures (flail chest from 
chest compressions) with ___ areas of pneumomediastinum. s/p 
ceftazidime (___).  Extubated ___ and weaned to RA. 

# Hyperchloremic Non-gap Metabolic Acidosis with respiratory 
compensation
# Parastomal Hernia 
# High ostomy output
# Abdominal distension 
# Intermittent Hypernatremia
# Hypokalemia
Patient suffered continuous GI losses secondary to parastomal 
hernia which increased greatly ___ size with abdominal distension 
and englarging mass. Bicarb was steadily downtrending from ___ 
to nadir of 12 on ___, and electrolyte abnormalities were 
severe. He became dependent on multiple daily bicarb infusions 
and constant potassium repletion to maintain levels. His free 
water deficits were large and he required liters of D5 daily to 
prevent hypernatremia which peaked at 156. Ostomy output peaked 
at 3L daily, likely from increased bowel herniation after an 
issue with the noncustom abdominal binder. Ostomy team followed 
but was unable to reduce the hernia. Loperamide and tincture of 
opium were used to decrease output but were stopped multiple 
times due to concern for obstruction. C dif tested multiple 
times and was negative.

# Candidemia
Developed candidemia found on blood culture ___. Per ID, likely 
from known gastric outlet obstruction with fistula between 
duodenum and mass, vs. possible port-related infection. TPN had 
previously been discontinued. Ophtho consult revealed no eye 
involvement. He was not a candidate for removal of his port or 
other hardware and continued fluconazole for the remainder of 
his life. 

# Cholangitis
# Liver Failure
LFTs checked routinely for TPN, all elevated beginning ___, as 
well as uptrending INR, concerning for cholangitis. GGT, Dbili 
elevated. Primary concern would be acalculous cholecystitis, 
however per prior imaging, patient has a surgically absent 
gallbladder. Somewhat difficult to adequately assess patient's 
pain given verbal status, but intermittently appeared to have 
abdominal pain and distension. CT A/P with progression of mass, 
CBD dilation and obliteration of the ampulla, likely cause of 
cholangitis, as well as fistulous tract between mass and 
duodenum. Per GI and ___, palliative procedures were not an 
option. Started broad spectrum abx for cholangitis which was 
essentially palliative, narrowed to vancomycin, zosyn 
ultimately. Patient had worsening liver failure based on markers 
of synthetic liver dysfunction including hypoglycemia, 
hypoalbuminemia, thrombocytopenia, coagulopathy. He required 
constant D5 infusion and amps of D50 multiple times a day to 
prevent hypoglycemia, and developed a new ileacus hematoma 
possibly related to coagulopathy. 

# Oliguric Renal Failure
Patient's Creatinine baseline appeared to be ~1.1. Usually 
ranges from 1.1 to 1.5, initially suspected ATN related to 
hypotension vs prerenal from hypovolemia, however also received 
contrast for CT ___ so may have had component of CIN as well. 
Creatinine rose precipitously and urine output fell ___ 
concurrence with worsening liver failure and cholangitis, likely 
multi-organ failure from overall illness. Obstructive cause from 
tumor burden was possible as well. Fluid boluses did not improve 
urine output.

# Hematochezia
# Upper GI bleed
# Transfusion Dependent Anemia
# New large right iliacus muscle hematoma
History of chronic GI bleed from duodenal ulcer. Received pRBCs 
PRN, essentially transfusion dependent. CT ___ showed new large 
right iliacus muscle hematoma since ___, unclear how acute. 

# Thrombocytopenia
# Elevated LDH
New from ___. DIC labs previously negative. Haptoglobin <10 
previously however this could’ve be due to liver dysfunction. 
Reticulocyte count conveyed some element of bone marrow 
suppression. Thrombocytopenia worsened day by day, possibly DIC 
related to cancer though labs were reassuring. No overt signs of 
thrombosis and was not a candidate for anticoagulation given 
GIB.

# CAUTI
Patient had +UA concerning for UTI and had a chronic foley from 
prior urinary retention. Culture ___ growing E Coli 
pan-sensitive. Completed 10d course of ceftaz. 

# Cellulitis associated with PICC Line
Patient developed cellulitis with purulence around his PICC line 
on ___. The line was promptly removed. line tip culture was 
negative and patient did not develop signs of systemic infection 
after removal of the line. He was started on vancomycin 
initially but this was then transitioned to Keflex for a 7 day 
course (last day ___. A new PICC line was placed. RN noted 
purulence around entry site ___. IV nurse evaluated and 
concerned for infection, blood cultures drawn, PICC d/c'ed and 
tip cultured, and reaccessed his port, which had been deaccessed 
as it was not ___ use. TPN was held given no access and 
ultimately discontinued when patient became fungemic. Wound 
culture showed no significant growth but was difficult to 
interpret ___ the setting of multiple days of antibiotics prior 
to culture.

# Nutrition 
# Enteral access
# Gastric Outlet Obstruction
Patient initially had feeding tube but this was discontinued 
after high residuals were recorded. He was then started on TPN. 
Speech and Swallow evaluated him and cleared him for oral 
intake. He was slowly retrialed on oral intake and tolerating 
full liquids without evidence of obstruction; however, due to 
his mental status he was unable to meet his caloric needs so TPN 
was continued. GI was consulted regarding advanced endoscopic 
options to relieve his gastric outlet obstruction, but duodenal 
stenting and J-tube placement were considered too high risk. His 
wife requested he be given soft food as a comfort measure and 
accepted bleeding/aspiration risk.  TPN was held after potential 
line infection and discontinued upon development of fungemia.

# R frontal stroke and acute cerebellar stroke: 
R frontal lobe stroke 1 month PTA and new cerebellar lesion on 
MRI ___. Etiology likely related to his underlying Afib. New 
cerebellar lesion occurred while holding a/c for GI bleed so it 
was restarted at 1mg/kg. Ultimately lovenox and aspirin 
discontinued because of iliacus muscle hematoma.

# Ectopy
# Afib/Aflutter:
Patient was ___ A fib and was maintained on therapeutic 
anticoagulation for cerebellar stroke with lovenox 1mg/kg until 
it was held for GIB and ultimately discontinued (see above). 
Noted on telemetry to have irregular rhythm with occasional RBBB 
and paced beats. He also had occasional RVR requiring 
uptitration for his metoprolol. EP and cardiology were consulted 
and had no further recommendations regarding his rhythm control. 
Metoprolol was discontinued when he developed sepsis due to 
cholangitis, and he was no longer maintained on telemetry after 
goals of care discussion. 

#Pacemaker RV lead displacement: RV lead was displaced by chest 
compressions. EP evaluated and turned up its output and it was 
still capturing. Should be reevaluated ___ outpatient setting if 
within goals of care. 

#Seizures
Patient had epileptiform discharges on EEG ___ the ICU and was 
started on valproate per neurology.

#Fall: The patient fell on ___ as he was attempting to stand 
from a chair. He had negative Head and Spine CT. Pain controlled 
with Tylenol and lidocaine patch. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 90 mg SC Q12H 
2. Metoprolol Succinate XL 37.5 mg PO DAILY 
3. Acetaminophen 1000 mg PO BID:PRN Pain - Mild 
4. Allopurinol ___ mg PO DAILY 
5. Divalproex (EXTended Release) 500 mg PO QHS 
6. Gabapentin 300 mg PO DAILY 
7. Levothyroxine Sodium 200 mcg PO 6X/WEEK (___) 
8. Levothyroxine Sodium 300 mcg PO 1X/WEEK (___) 
9. Vitamin D ___ UNIT PO DAILY 
10. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QID 
11. OxyCODONE (Immediate Release) 2.5 mg PO TID 
12. Klor-Con M20 (potassium chloride) 20 mEq oral DAILY 

 
Discharge Medications:
None
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
# METASTATIC COLORECTAL CANCER
# CARDIAC ARREST
# PARTIAL NEUROLOGIC RECOVERY WITH RESIDUAL NEUROLOGIC DEFICITS 
# Acute hypoxemic respiratory failure:  
# Pneumonia 
# Flail Chest 
# Pneumomediastinum
# Hyperchloremic Non-gap Metabolic Acidosis with respiratory 
compensation
# Parastomal Hernia 
# High ostomy output
# Abdominal distension 
# Intermittent Hypernatremia
# Hypokalemia
# Candidemia
# Cholangitis
# Liver Failure
# Oliguric Renal Failure
# Hematochezia
# Upper GI bleed
# Transfusion Dependent Anemia
# right iliacus muscle hematoma
# Thrombocytopenia
# CAUTI
# Cellulitis
# Gastric Outlet Obstruction
# Severe protein malnutrition
# R frontal stroke and acute cerebellar stroke
# Ectopy
# Afib/Aflutter
# Seizures
 
Discharge Condition:
Expired
 
Discharge Instructions:
None
 
Followup Instructions:
___